US09079866B2
tert-Butyl (1-((2-bromophenyl)sulfonyl)piperidin-4-yl)carbamate
A solution of 2-bromobenzene-1-sulfonyl chloride (50 mg, 0.20 mmol), tert-butyl piperidin-4-ylcarbamate (49 mg, 0.25 mmol), and diisopropylethyl amine (0.101 mL, 0.59 mmol) in CH2Cl2 was stirred for 90 min at rt. The reaction mixture was then concentrated to dryness to give the title compound in quantitative yield. The product was used without further purification.

reactant | 2-bromobenzene-1-sulfonyl chloride | 0.20 mmol, 50 mg | BrC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | tert-butyl piperidin-4-ylcarbamate | 0.25 mmol, 49 mg | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | diisopropylethyl amine | 0.59 mmol, 0.101 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | tert-Butyl (1-((2-bromophenyl)sulfonyl)piperidin-4-yl)carbamate | quantitative yield | BrC1=C(C=CC=C1)S(=O)(=O)N1CCC(CC1)NC(OC(C)(C)C)=O | C16H23BrN2O4S
